US07034039B2
A mixture of ethyl 3-[4-butoxy-6,7-dichloro-3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-oxo-2 (1H)isoquinolinyl]propionate (1.36 g, 2.5 mmol) in 6N hydrochloric acid (15 ml) and acetic acid (15 ml) was refluxed with stirring for 2 h. The reaction mixture was concentrated under reduced pressure, and the residue was recrystallized from tetrahydrofuran-diisopropyl ether to give 3-[4-butoxy-6,7-dichloro-3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-oxo-2(1H)-isoquinolinyl]propionic acid (1.08 g, 83.7%) as crystals.

reactant | ethyl 3-[4-butoxy-6,7-dichloro-3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-oxo-2 (1H)isoquinolinyl]propionate | 2.5 mmol, 1.36 g | C(CCC)OC1=C(N(C(C2=CC(=C(C=C12)Cl)Cl)=O)CCC(=O)OCC)CN1C(C2=CC=CC=C2C1=O)=O | C27H26Cl2N2O6
solvent | hydrochloric acid | 6N, 15 ml | Cl | ClH
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 3-[4-butoxy-6,7-dichloro-3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-oxo-2(1H)-isoquinolinyl]propionic acid | 1.08 g, 83.7% | C(CCC)OC1=C(N(C(C2=CC(=C(C=C12)Cl)Cl)=O)CCC(=O)O)CN1C(C2=CC=CC=C2C1=O)=O | C25H22Cl2N2O6
